US05602277
EXAMPLE 15 4-(Methoxycarbonyl)aminobenzoic acid.
To a suspension of methyl 4-(methoxycarbonyl)aminobenzoate (1.5 g, 7.17 mmol) in 10 mL of deionized water was added 1N sodium hydroxide (7 mL, aqueous) and the mixture was heated to 60°-70° C. for 8 h. The reaction mixture was filtered and the filtrate was neutralized with 6N HCl. The precipitated solid was separated through filtration, dried in air followed by drying in a pistol at acetone reflux in vacuo to give 754 mg (54%) of the title compound as a white solid, mp 195°-196° C.

reactant | methyl 4-(methoxycarbonyl)aminobenzoate | 7.17 mmol, 1.5 g | COC(=O)NC1=CC=C(C(=O)OC)C=C1 | C10H11NO4
reactant | sodium hydroxide | 1N, 7 mL | [OH-].[Na+]
solvent | water | 10 mL | O | H2O
product | 4-(Methoxycarbonyl)aminobenzoic acid | 754 mg, 54% | COC(=O)NC1=CC=C(C(=O)O)C=C1 | C9H9NO4
